### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): SimplicialSet (co)skeleton properties

### PR DESCRIPTION
**Pull request by digama0**
Some assorted properties of the simplex category and simplicial sets.

Co-Authored-By: Emily Riehl <eriehl@jhu.edu>
Co-Authored-By: Pietro Monticone <38562595+pitmonticone@users.noreply.github.com>
Co-Authored-By: Joël Riou <37772949+joelriou@users.noreply.github.com> 

---

* Prerequisite for #16784.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 1]
```diff
@@ -165,6 +165,43 @@ theorem const_comp (x : SimplexCategory) {y z : SimplexCategory}
...
+theorem const_fac_thru_zero (n m : SimplexCategory) (i : Fin (m.len + 1)) :
+    const n m i = const n [0] 0 ≫ SimplexCategory.const [0] m i := by
+  rw [const_comp]; rfl
+
+theorem eq_const_of_zero {n : SimplexCategory} (f : ([0] : SimplexCategory) ⟶ n) :
+    f = const _ n (f.toOrderHom 0) := by
+  ext x; match x with | 0 => rfl
+
+theorem eq_const_of_zero' {n : SimplexCategory} (f : ([0] : SimplexCategory) ⟶ n) :
+    ∃ a, f = const _ n a := ⟨_, eq_const_of_zero _⟩
```
Comment (semorrison) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:177]: Maybe `exists_eq_const_of_zero`, rather than just a prime?

File: Mathlib/AlgebraicTopology/SimplicialSet.lean [hunk 2]
```diff
@@ -335,18 +338,68 @@ instance Truncated.hasColimits {n : ℕ} : HasColimits (Truncated n) := by
...
+  (whiskeringLeft _ _ _).obj (SimplexCategory.Δ.ι n).op
 
 instance {n} : Inhabited (SSet.Truncated n) :=
-  ⟨(sk n).obj <| Δ[0]⟩
+  ⟨(truncation n).obj <| Δ[0]⟩
+
+section adjunctions
+open SimplexCategory
+
+/-- The adjunction between n-truncation and the n-skeleton.-/
```
Comment (semorrison) [inline Mathlib/AlgebraicTopology/SimplicialSet.lean:362]:
```suggestion
/-- The adjunction between the n-skeleton and n-truncation.-/
```
Just to reflect the left/rightness.

File: Mathlib/Order/Category/NonemptyFinLinOrd.lean [hunk 3]
```diff
@@ -235,3 +235,8 @@ def nonemptyFinLinOrdDualCompForgetToFinPartOrd :
       forget₂ NonemptyFinLinOrd FinPartOrd ⋙ FinPartOrd.dual where
   hom := { app := fun X => OrderHom.id }
   inv := { app := fun X => OrderHom.id }
+
+theorem Fin.le_succ {n} (i : Fin n) : i.castSucc ≤ i.succ := Nat.le_succ i
```
Comment (semorrison) [inline Mathlib/Order/Category/NonemptyFinLinOrd.lean:239]: Belongs in some file about `Fin`?

Comment (emilyriehl) [reply Mathlib/Order/Category/NonemptyFinLinOrd.lean:239]: @semorrison I couldn't for the life of me figure out where the category structure on Fin is discussed. I agree, this doesn't feel like the most natural location.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 1 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:177]: Good suggestion, thanks.

File: Mathlib/Order/Category/NonemptyFinLinOrd.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/Order/Category/NonemptyFinLinOrd.lean:239]: But this lemma has nothing to do with the category structure. It is just an inequality, so should go in Mathlib.Data.Fin.Basic (or even earlier; I'm happy to move this to the core repository). It should also be renamed `Fin.castSucc_le_succ` as I think it's ambiguous otherwise.

Comment (emilyriehl) [reply Mathlib/Order/Category/NonemptyFinLinOrd.lean:239]: Ah sorry. Now I understand the point you were making. Yes please move it wherever it belongs and rename appropriately.

Comment (emilyriehl) [reply Mathlib/Order/Category/NonemptyFinLinOrd.lean]: @kim-em this was fixed by @digama0

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 4]
```diff
@@ -490,8 +590,25 @@ def inclusion {n : ℕ} : SimplexCategory.Truncated n ⥤ SimplexCategory :=
...
+
+@[ext]
+theorem Hom.ext {n} {a b : Truncated n} (f g : a ⟶ b) :
+    f.toOrderHom = g.toOrderHom → f = g := SimplexCategory.Hom.ext _ _
+
 end Truncated
 
+/-- An abbreviation for the full subcategory of the simplex category spanned by the objects
+0, ..., k. -/
+abbrev Δ (k : ℕ) := SimplexCategory.Truncated k
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:605]: I would very much prefer if these abbreviations were not introduced because I find them extremely confusing.

File: Mathlib/AlgebraicTopology/SimplicialSet.lean [hunk 5]
```diff
@@ -335,18 +338,68 @@ instance Truncated.hasColimits {n : ℕ} : HasColimits (Truncated n) := by
...
+  ⟨(truncation n).obj <| Δ[0]⟩
+
+section adjunctions
+open SimplexCategory
+
+/-- The adjunction between the n-skeleton and n-truncation.-/
+noncomputable def skAdj (n) : lan (Δ.ι n).op ⊣ truncation.{u} n := lanAdjunction _ _
+
+/-- The adjunction between n-truncation and the n-coskeleton.-/
+noncomputable def coskAdj (n) : truncation.{u} n ⊣ ran (Δ.ι n).op := ranAdjunction _ _
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet.lean:366]: As I am suggesting removing the abbreviation `Δ.ι`, I would suggest introducing definitions (or abbreviations) for the (co)skeleton functors.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet.lean:366]: I'm aware of two conventions in the literature, where 
(i) `skeleton := lan (Δ.ι n).op` and where 
(ii) `skeleton := truncation.{u} n >>> lan (Δ.ι n).op`.

For the purposes of defining this adjunction, it might be useful to use definition (i) but I suspect definition (ii) would be more useful to folks interacting with simplicial sets in Mathlib. Thus my instinct is to adopt convention (ii) and just get rid of the abbreviation here (and above) as you suggest. Do you agree?

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 4 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:605]: Cut.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet.lean [hunk 6]
```diff
@@ -351,53 +351,79 @@ lemma Truncated.hom_ext {n : ℕ} {X Y : Truncated n} {f g : X ⟶ Y} (w : ∀ n
...
   ⟨(truncation n).obj <| Δ[0]⟩
 
-section adjunctions
+
 open SimplexCategory
 
+noncomputable section
+
+/-- The n-skeleton as an endofunctor on `SSet`. -/
+abbrev sk (n : ℕ) : SSet ⥤ SSet := truncation.{u} n ⋙ lan (Truncated.inclusion.op)
```
Comment (digama0) [inline Mathlib/AlgebraicTopology/SimplicialSet.lean:365]:
```suggestion
abbrev sk (n : ℕ) : SSet ⥤ SSet := truncation.{u} n ⋙ Truncated.sk n
```

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet.lean]: Good idea. Just swapped the order of the definitions and implemented this.

**Comment by emilyriehl** [comment]
@joelriou I added the versions of co/skeleton for simplicial objects as requested under the most general hypotheses. Let me know if you'd like me to implement this differently.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 7]
```diff
@@ -173,6 +210,35 @@ without identifying `n` with `[n].len`.
...
+def mkOfSucc {n} (i : Fin n) : ([1] : SimplexCategory) ⟶ [n] :=
+  SimplexCategory.mkHom {
+    toFun := fun | 0 => i.castSucc | 1 => i.succ
+    monotone' := fun
+      | 0, 0, _ | 1, 1, _ => le_rfl
+      | 0, 1, _ => Fin.castSucc_le_succ i
+  }
+
+/-- The morphism `[2] ⟶ [n]` that picks out a specified composite of morphisms in `Fin (n+1)`.-/
+def mkOfLeComp {n} (i j k : Fin (n+1)) (h₁ : i ≤ j) (h₂ : j ≤ k): ([2] : SimplexCategory) ⟶ [n] :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:232]:
```suggestion
def mkOfLeComp {n} (i j k : Fin (n + 1)) (h₁ : i ≤ j) (h₂ : j ≤ k) : ([2] : SimplexCategory) ⟶ [n] :=
```

File: Mathlib/AlgebraicTopology/SimplicialObject.lean [hunk 8]
```diff
@@ -241,13 +242,40 @@ variable {C}
...
   (whiskeringLeft _ _ _).obj SimplexCategory.Truncated.inclusion.op
 
-end Skeleton
+end Truncation
+
+
+noncomputable section
+
+/-- The n-skeleton as a functor `SimplicialObject.Truncated C n ⥤ SimplicialObject C`. -/
+protected abbrev Truncated.sk (n : ℕ) [ ∀ (F : (SimplexCategory.Truncated n)ᵒᵖ ⥤ C),
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject.lean:257]:
```suggestion
protected abbrev Truncated.sk (n : ℕ) [∀ (F : (SimplexCategory.Truncated n)ᵒᵖ ⥤ C),
```

File: Mathlib/AlgebraicTopology/SimplicialObject.lean [hunk 9]
```diff
@@ -241,13 +242,40 @@ variable {C}
...
+  lan (SimplexCategory.Truncated.inclusion.op)
+
+/-- The n-coskeleton as a functor `SimplicialObject.Truncated C n ⥤ SimplicialObject C`. -/
+protected abbrev Truncated.cosk (n : ℕ) [ ∀ (F : (SimplexCategory.Truncated n)ᵒᵖ ⥤ C),
+    SimplexCategory.Truncated.inclusion.op.HasRightKanExtension F] :
+    SimplicialObject.Truncated C n ⥤ SimplicialObject C :=
+  ran (SimplexCategory.Truncated.inclusion.op)
+
+/-- The n-skeleton as an endofunctor on `SimplicialObject C`. -/
+abbrev sk (n : ℕ) [ ∀ (F : (SimplexCategory.Truncated n)ᵒᵖ ⥤ C),
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject.lean:269]:
```suggestion
abbrev sk (n : ℕ) [∀ (F : (SimplexCategory.Truncated n)ᵒᵖ ⥤ C),
```

File: Mathlib/AlgebraicTopology/SimplicialSet.lean [hunk 10]
```diff
@@ -335,18 +338,94 @@ instance Truncated.hasColimits {n : ℕ} : HasColimits (Truncated n) := by
...
 lemma Truncated.hom_ext {n : ℕ} {X Y : Truncated n} {f g : X ⟶ Y} (w : ∀ n, f.app n = g.app n) :
     f = g :=
   NatTrans.ext (funext w)
 
-/-- The skeleton functor on simplicial sets. -/
-def sk (n : ℕ) : SSet ⥤ SSet.Truncated n :=
-  SimplicialObject.sk n
+/-- The truncation functor on simplicial sets. -/
+def truncation (n : ℕ) : SSet ⥤ SSet.Truncated n :=
+  (whiskeringLeft _ _ _).obj SimplexCategory.Truncated.inclusion.op
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet.lean:354]: Here, it would be slightly better to use `SimplicialObject.truncation`.

File: Mathlib/AlgebraicTopology/SimplicialSet.lean [hunk 11]
```diff
@@ -335,18 +338,94 @@ instance Truncated.hasColimits {n : ℕ} : HasColimits (Truncated n) := by
...
+section adjunctions
+
+
+/-- The adjunction between the n-skeleton and n-truncation.-/
+noncomputable def skAdj (n : ℕ) : Truncated.sk n ⊣ truncation.{u} n :=
+  lanAdjunction _ _
+
+/-- The adjunction between n-truncation and the n-coskeleton.-/
+noncomputable def coskAdj (n : ℕ) : truncation.{u} n ⊣ Truncated.cosk n :=
+  ranAdjunction _ _
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet.lean:389]: These two definitions, and probably most of the other which appear below could be done for general simplicial objects (under suitable assumptions). Then, we should just check that the instances are found in the case of simplicial sets.

File: Mathlib/AlgebraicTopology/SimplicialSet.lean (hunk 10 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet.lean:354]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet.lean (hunk 11 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet.lean]: Good suggestion, thanks. And indeed lean was able to refer the existence of pointwise Kan extensions.

**Comment by emilyriehl** [comment]
I've implemented all @joelriou's suggestions and moved the adjunction stuff to the simplicial objects file. I would have written a comment at the start of the adjunctions section there but kept getting errors when I tried to insert a comment near the start of the section or near the declaration of the variables, so there's no section-wide commenting. Perhaps that's deliberate?

File: Mathlib/AlgebraicTopology/SimplicialObject.lean [hunk 12]
```diff
@@ -241,13 +243,92 @@ variable {C}
...
+noncomputable def skAdj : Truncated.sk (C := C) n ⊣ truncation n :=
+  lanAdjunction _ _
+
+/-- The adjunction between n-truncation and the n-coskeleton.-/
+noncomputable def coskAdj : truncation (C := C) n ⊣ Truncated.cosk n :=
+  ranAdjunction _ _
+
+namespace Truncated
+
+instance cosk_reflective : IsIso ((coskAdj (C := C) n).counit) :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject.lean:298]: The parentheses are not necessary here:
```suggestion
instance cosk_reflective : IsIso (coskAdj (C := C) n).counit :=
```
There are a few more similare cases just below and in `SimplicialSet.lean`.

File: Mathlib/AlgebraicTopology/SimplicialSet.lean [hunk 13]
```diff
@@ -335,18 +335,95 @@ instance Truncated.hasColimits {n : ℕ} : HasColimits (Truncated n) := by
...
+/-- The n-skeleton as an endofunctor on `SSet`. -/
+abbrev sk (n : ℕ) : SSet ⥤ SSet := SimplicialObject.sk n
+
+/-- The n-coskeleton as an endofunctor on `SSet`. -/
+abbrev cosk (n : ℕ) : SSet ⥤ SSet := SimplicialObject.cosk n
+
+end
+
+section adjunctions
+
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet.lean:377]:
```suggestion

```

**Comment by joelriou** [comment]
> I've implemented all @joelriou's suggestions and moved the adjunction stuff to the simplicial objects file. I would have written a comment at the start of the adjunctions section there but kept getting errors when I tried to insert a comment near the start of the section or near the declaration of the variables, so there's no section-wide commenting. Perhaps that's deliberate?
Did you use the `/- -/` syntax (which should work?) or `/-- -/`?
If you want to insert a comment that shall appear in the documentation, you could use `/-! -/`.

**Comment by emilyriehl** [comment]
> > I've implemented all @joelriou's suggestions and moved the adjunction stuff to the simplicial objects file. I would have written a comment at the start of the adjunctions section there but kept getting errors when I tried to insert a comment near the start of the section or near the declaration of the variables, so there's no section-wide commenting. Perhaps that's deliberate?
> 
> Did you use the `/- -/` syntax (which should work?) or `/-- -/`? If you want to insert a comment that shall appear in the documentation, you could use `/-! -/`.

I had used `/-- -/` which was my mistake. I've now added comments with `/- -/`. 

I noticed also that I had accidentally constructed `skAdj` and `coskAdj` under the hypothesis of pointwise Kan extensions existing, when all that is needed is that the (not necessarily pointwise) Kan extensions do, so I fixed that.
